US04716172
e. trans-4(2-Bromophenyl)octahydro-2H-quinolizine Hydrochloride
A 3.78 g sample (0.01 mole) of 4-(2-bromophenyl)-1,2,3,6,7,8,9,9a-octahydroquinolizinium perchlorate, the product of Example 5d, was partitioned between ether and sodium hydroxide solution. The ether layer was washed with brine, dried (K2CO3) and the ether evaporated under reduced pressure. The residue (2.0 g) was hydrogenated in 25 mL of glacial acetic acid over 50 mg of PtO2 at 50 psi in a Parr shaker. After 15 minutes, the hydrogen uptake was complete. The catalyst was removed by filtration and the solvent was evaporated under reduced pressure. The residue was partitioned between ether and sodium hydroxide and dried (K2CO3). The residue was taken up in ether and ethereal hydrogen chloride added. The precipitate was recrystallized from 2-propanol-ether to give 1.09 g (33% yield) of the title compound as a white solid, mp 242°-246° C.

reactant | 4-(2-bromophenyl)-1,2,3,6,7,8,9,9a-octahydroquinolizinium perchlorate | 0.01 mole | Cl(=O)(=O)(=O)[O-].BrC1=C(C=CC=C1)C=1CCCC2CCCC[N+]12
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ether | CCOCC | C4H10O
product | trans-4(2-Bromophenyl)octahydro-2H-quinolizine Hydrochloride | 1.09 g, 33% yield | Cl.BrC1=C(C=CC=C1)[C@@H]1CCC[C@@H]2CCCCN12 | InChI=1S/C15H20BrN.ClH/c16-14-9-2-1-8-13(14)15-10-5-7-12-6-3-4-11-17(12)15;/h1-2,8-9,12,15H,3-7,10-11H2;1H/t12-,15-;/m0./s1
